US06063810
14 g (67.96 mmol) of (+)-2,3-dimethyl-7-(2-hydroxy-1(S)-hydroxyethyl)benzofuran and 250 ml of pyridine are introduced into a 500 ml three-necked flask. The mixture is cooled to 0° C. and 11.62 g (61.16 mmol) of tosyl chloride and then 0.5 g of dimethylaminopyridine are added. The reaction mixture is stirred for 2 h at room temperature, 0.645 g of tosyl chloride is added and stirring is continued for 16 h. The mixture is cooled to 0° C. and 300 ml of ethyl acetate and then 250 ml of a hydrochloric acid solution (4M) are added. Extraction is carried out with ethyl acetate (2×400 ml). The organic phases are combined, washed with 2×250 ml of a hydrochloric acid solution (4M), dried over magnesium sulphate and concentrated. The residue is purified by silica column chromatography (elution solvent: 25% ethyl acetate in cyclohexane). 15 g of (+)-2,3-dimethyl-7-(2-para-methylphenylsulphonyl-1(S)-hydroxyethyl)benzofuran are obtained in the form of a white solid--M.p.: 90° C.

reactant | (+)-2,3-dimethyl-7-(2-hydroxy-1(S)-hydroxyethyl)benzofuran | 67.96 mmol, 14 g | CC=1OC2=C(C1C)C=CC=C2[C@@H](CO)O | C12H14O3
reactant | pyridine | 250 ml | N1=CC=CC=C1 | C5H5N
reactant | tosyl chloride | 61.16 mmol, 11.62 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | hydrochloric acid | 4M, 250 ml | Cl | ClH
catalyst | dimethylaminopyridine | 0.5 g | CN(C)C1=NC=CC=C1 | C7H10N2
catalyst | tosyl chloride | 0.645 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
product | (+)-2,3-dimethyl-7-(2-para-methylphenylsulphonyl-1(S)-hydroxyethyl)benzofuran | 15 g | CC=1OC2=C(C1C)C=CC=C2[C@@H](CS(=O)(=O)C2=CC=C(C=C2)C)O | C19H20O4S
